US06300354B1
c) 2-(2-Chloroethyl)-3,3-dimethyl-2, 3-dihydro-1,2-benzoiso-thiazole 1,1-dioxide
2-(2-Chloroethyl)-3,3-dimethyl-6-nitro-2,3-dihydro-1, 2-benzoisothiazole 1,1-dioxide, 2-(2-chloroethyl)-3, 3-diethyl-2,3-dihydro-1,2-benzoisothiazole 1,1-dioxide and 2-(2-chloroethyl)-4-chloro-3,3-dimethyl-2,3-dihydro-1, 2-benzoisothiazole 1,1-dioxide can be prepared in an analogous manner.

reactant | 2-(2-Chloroethyl)-3,3-dimethyl-6-nitro-2,3-dihydro-1, 2-benzoisothiazole 1,1-dioxide | ClCCN1S(C2=C(C1(C)C)C=CC(=C2)[N+](=O)[O-])(=O)=O | C11H13ClN2O4S
reactant | 2-(2-chloroethyl)-3, 3-diethyl-2,3-dihydro-1,2-benzoisothiazole 1,1-dioxide | ClCCN1S(C2=C(C1(CC)CC)C=CC=C2)(=O)=O | C13H18ClNO2S
reactant | 2-(2-chloroethyl)-4-chloro-3,3-dimethyl-2,3-dihydro-1, 2-benzoisothiazole 1,1-dioxide | ClCCN1S(C2=C(C1(C)C)C(=CC=C2)Cl)(=O)=O | C11H13Cl2NO2S
product | 2-(2-Chloroethyl)-3,3-dimethyl-2, 3-dihydro-1,2-benzoiso-thiazole 1,1-dioxide | ClCCN1S(C2=C(C1(C)C)C=CC=C2)(=O)=O | C11H14ClNO2S
